US04276226
4,4'-Dicarbomethoxybiphenyl (67 g, 0.25 mole) and 2,6-dimethylphenol (61 g, 0.50 mole) were charged to a one-liter Hastalloy C® shaker tube. The tube was cooled and charged with hydrogen fluoride (200 g) and boron trifluoride (75 g). The tube was heated to 50° C. and shaken at 50° C. for 4 hr. It was then cooled and vented, and the contents, an orange solid in an orange solution, were allowed to evaporate in the hood. The orange solid that resulted was stirred in 2 l. of water, warmed, and isolated by filtration of the warm mixture. The precipitate was stirred in 2 l. of water, warmed, and neutralized with sodium bicarbonate. The solid was isolated by filtration of the warm solution, washed with water, and air dried to afford crude 4,4'-bis(3,5-dimethyl-4-hydroxybenzoyl)biphenyl in a yield of 107.6 g (96%), as a salmon-colored powder.

reactant | 4,4'-Dicarbomethoxybiphenyl | 0.25 mole, 67 g | C(=O)(OC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC | C16H14O4
reactant | 2,6-dimethylphenol | 0.50 mole, 61 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | hydrogen fluoride | 200 g | F | FH
reactant | boron trifluoride | 75 g | B(F)(F)F | BF3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 4,4'-bis(3,5-dimethyl-4-hydroxybenzoyl)biphenyl | CC=1C=C(C(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)C(C2=CC(=C(C(=C2)C)O)C)=O)C=C(C1O)C | C30H26O4
